US07737136B2
8-Chloro-5H-dibenzo[b,f][1,4]diazepine (Structure 74 of Scheme XVII)
To a solution of 8-chloro-10,11-dihydro-5H-dibenzo[b,f][1,4]diazepine (8.75 g, 37.9 mmol) in CH2Cl2 (375 mL) was added MnO2 (14.5 g, 166 mmol). The reaction mixture was stirred at room temperature for 1.5 h. After filtration through dicalite, washing with CH2Cl2, the volatiles were removed in vacuo. The crude product was dissolved in ethanol (250 mL) wherafter 2N (aq) NaOH (20 mL) was added. This mixture was stirred at room temperature for 2.5 h. The reaction mixture was filtrated through dicalite and washed with CH2Cl2. After removal of the solvent under reduced pressure, the residu was dissolved in ethanol (350 mL). NaOH (2N, 20 mL) was added and the mixture was stirred for 3 h. Water was added and the mixture was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried and evaporated to afford the title compound (8.9 g, 38.9 mmol).

reactant | 8-chloro-10,11-dihydro-5H-dibenzo[b,f][1,4]diazepine | 37.9 mmol, 8.75 g | ClC1=CC2=C(NC3=C(CN2)C=CC=C3)C=C1 | C13H11ClN2
solvent | CH2Cl2 | 375 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 166 mmol, 14.5 g | O=[Mn]=O
product | 8-Chloro-5H-dibenzo[b,f][1,4]diazepine | 38.9 mmol, 8.9 g | ClC1=CC2=C(NC3=C(C=N2)C=CC=C3)C=C1 | C13H9ClN2
